US04303656
EXAMPLE 9 2-(N,N-Dimethylaminomethyl)-4-[4-(trifluoromethyl)phenyl]chroman
The process of example 4 was repeated using N,N-dimethylglycine ethyl ester in place of N,N-dimethylalanine ethyl ester in part (a), and using 4-bromobenzotrifluoride in place of 4-bromochlorobenzene in part (c) to yield the title compound.

reactant | N,N-dimethylglycine ethyl ester | C(C)OC(CN(C)C)=O | C6H13NO2
reactant | 4-bromobenzotrifluoride | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
product | 2-(N,N-Dimethylaminomethyl)-4-[4-(trifluoromethyl)phenyl]chroman | CN(C)CC1OC2=CC=CC=C2C(C1)C1=CC=C(C=C1)C(F)(F)F | C19H20F3NO
